US04919708
Under a dry nitrogen atmosphere a stirred solution of 2.1 g (0.0062 mole) of N-[2,4-dichloro-5-(1-methylethoxy)anilino]trifluoroacetamidine in 130 mL of toluene was cooled in an ice bath. To this was added 5.2 mL (0.037 mole) of triethylamine followed by the dropwise addition of 45.6 mL of a 2.9% (0.013 mole) phosgene in toluene solution. After complete addition the mixture was heated quickly to 65° C. and stirred at that temperature for 45 minutes. The mixture was allowed to cool to room temperature and stir for approximately 18 hours. The mixture was diluted with 25 mL of water and stirred vigorously for a brief period. Sufficient concentrated hydrochloric acid was added to make the aqueous phase acidic (pH 2). The acidic aqueous phase and the organic phase were shaken briskly after which the organic phase was separated from the mixture and saved for further purification. The aqueous phase was extracted with methylene chloride and the extract evaporated to leave a yellow solid. This solid was dissolved in toluene and the resultant solution added to the saved organic phase from above. The combined organic phase was stirred at room temperature with decolorizing carbon and filtered through a celite pad. The filtrate was extracted with a 1N sodium hydroxide solution. This extract was washed with toluene and acidified with concentrated hydrochloric acid to pH 2. Sodium chloride was added to the acidic solution to the point of saturation. A precipitate formed upon cooling this solution and was collected by filtration. The filter cake was rinsed with several portions of ice cold water and dried under reduced pressure to yield 1.8 g of 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-trifluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one (mp 160°-161° C.), Compound 36.

reactant | N-[2,4-dichloro-5-(1-methylethoxy)anilino]trifluoroacetamidine | 0.0062 mole, 2.1 g | ClC1=C(NNC(C(F)(F)F)=N)C=C(C(=C1)Cl)OC(C)C | C11H12Cl2F3N3O
reactant | triethylamine | 0.037 mole, 5.2 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 0.013 mole | C(=O)(Cl)Cl | CCl2O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 mL | O | H2O
product | 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-trifluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one | 1.8 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(NC1=O)C(F)(F)F | C12H10Cl2F3N3O2
